US08530475B2
1-Benzo[b]thiophen-3-yl-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-1-ol
1-Benzo[b]thiophen-3-yl-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-1-one (8 mg, 0.0176 mmol), sodium borohydride (20 mg, 0.5 mmol) and methanol (1 ml), were placed in a round bottom flask and the reaction mixture stirred for one hour at room temperature. To the reaction mixture were then added a solution of 1N NaOH (10 mL) and ethyl acetate (10 mL). The resulting mixture was separated and the organic layer was dried with magnesium sulfate, filtered and evaporated under reduced pressure to yield the title compound as a solid.

reactant | 1-Benzo[b]thiophen-3-yl-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-1-one | 0.0176 mmol, 8 mg | S1C2=C(C(=C1)C(CCN1C3CC=CCC(C1)N(C3)C3=CC1=CC=CC=C1C=C3)=O)C=CC=C2 | C29H28N2OS
reactant | sodium borohydride | 0.5 mmol, 20 mg | [BH4-].[Na+]
reactant | methanol | 1 ml | CO | CH4O
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1-Benzo[b]thiophen-3-yl-3-(9-naphthalen-2-yl-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl)-propan-1-ol | S1C2=C(C(=C1)C(CCN1C3CC=CCC(C1)N(C3)C3=CC1=CC=CC=C1C=C3)O)C=CC=C2 | C29H30N2OS
